US09233933B2
Under a nitrogen atmosphere, a pressure tube was charged with a magnetic stirring bar, pyridine-2-carboximidamide hydrochloride (268 mg, 1.70 mmol), N,N-Dimethylformamide (13.2 mL), potassium tert-butoxide (382 mg, 3.41 mmol) and diethyl 2-(1-(2,4-difluorophenyl)ethylidene)malonate (508 mg, 1.70 mmol). The reaction mixture was sealed and stirred at 60° C. for 45 hours. After cooling to room temperature, the reaction mixture was poured into ice water (200 mL) and the resulting emulsion was neutralized (pH=7) using hydrochloric acid (1N). The mixture was extracted with dichloromethane. The combined organic extracts were dried (Na2SO4) and concentrated under reduced pressure. N,N-Dimethylformamide was co evaporated using toluene and the resulting yellow oil was purified using silica gel column chromatography with ethyl acetate in heptane in a gradient from 10 to 40%. The desired fractions were concentrated in vacuo yielding ethyl 4-(2,4-difluorophenyl)-4-methyl-6-oxo-2-(pyridin-2-yl)-1,4,5,6-tetrahydropyrimidine-5-carboxylate (203 mg). Under a nitrogen atmosphere, a tube was charged with a stirring bar, ethyl 4-(2,4-difluorophenyl)-4-methyl-6-oxo-2-(pyridin-2-yl)-1,4,5,6-tetrahydropyrimidine-5-carboxylate (137 mg, 0.367 mmol) and phosphorous oxychloride (0.509 mL, 5.48 mmol). The mixture was stirred and heated at reflux for 30 minutes. After cooling to room temperature, the reaction mixture was concentrated to dryness. The obtained residue was dissolved in dichloromethane and washed with saturated aqueous sodium bicarbonate (3×10 mL), dried (isolute HM-N) and evaporated to resulting in ethyl 6-chloro-4-(2,4-difluorophenyl)-4-methyl-2-(pyridin-2-yl)-1,4-dihydropyrimidine-5-carboxylate (154 mg) as a yellow powder which was used as such in the next step.

reactant | pyridine-2-carboximidamide hydrochloride | 1.70 mmol, 268 mg | Cl.N1=C(C=CC=C1)C(N)=N
reactant | potassium tert-butoxide | 3.41 mmol, 382 mg | CC(C)([O-])C.[K+]
reactant | diethyl 2-(1-(2,4-difluorophenyl)ethylidene)malonate | 1.70 mmol, 508 mg | FC1=C(C=CC(=C1)F)C(C)=C(C(=O)OCC)C(=O)OCC | C15H16F2O4
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | N,N-Dimethylformamide | 13.2 mL | CN(C=O)C | C3H7NO
product | ethyl 4-(2,4-difluorophenyl)-4-methyl-6-oxo-2-(pyridin-2-yl)-1,4,5,6-tetrahydropyrimidine-5-carboxylate | 203 mg | FC1=C(C=CC(=C1)F)C1(N=C(NC(C1C(=O)OCC)=O)C1=NC=CC=C1)C | C19H17F2N3O3
